US05559230
5-Hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.70 g) is dissolved in a mixture (30 ml) of dichloromethane/acetonitrile (1:1) and thereto are added methanesulfonyl chloride (0.8 ml) and pyridine (1.0 ml), and the mixture is refluxed with stirring for 2 hours. After cooling, the reaction solution is evaporated under reduced pressure and to the resulting residue is added water and then extracted with ethyl acetate. The extract is washed successively with diluted hydrochloric acid and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is recrystallized from ethyl acetate/n-hexane to give 5-methanesulfonyloxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.72 g) as white powder, m.p. 189°-190° C.

reactant | 5-Hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.70 g | OCC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H26N2O3
reactant | methanesulfonyl chloride | 0.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane acetonitrile | 30 ml | ClCCl.C(C)#N
product | 5-methanesulfonyloxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.72 g | CS(=O)(=O)OCC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C27H28N2O5S
